US07932262B2
To a suspension of 2-amino-3-fluorobenzoic acid (5 g, 32.2 mmol) in chloroform (200 mL) was added dropwise bromine (1.1 equiv.) in chloroform (125 mL) solution. The mixture was stirred at room temperature for 16 hrs. The resulting white solid was collected by filtration and washed thoroughly with methylene chloride until the filtrate was colorless. The solid was air-dried to give 9.6 g of white powder as HBr salt of 2-amino-5-bromo-3-fluorobenzoic acid (95% yield). ES/MS m/z 234/236 (MH+).

reactant | 2-amino-3-fluorobenzoic acid | 32.2 mmol, 5 g | NC1=C(C(=O)O)C=CC=C1F | C7H6FNO2
reactant | bromine | 1.1 equiv. | BrBr | Br2
reactant | HBr | Br | BrH
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 125 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-bromo-3-fluorobenzoic acid | 95% yield | NC1=C(C(=O)O)C=C(C=C1F)Br | C7H5BrFNO2
